US08383821B2
3′-Chloro-5′-(hydroxymethyl)biphenyl-4-carbonitrile.
A solution of 3′-amino-5′-(hydroxymethyl)biphenyl-4-carbonitrile (120 mg, 0.54 mmol) in dry acetonitrile (1 mL) was added dropwise to a solution of copper (II) chloride (86 mg, 0.64 mmol) and tert-butyl nitrite (91 μL, 0.78 mmol) in acetonitrile (2 mL) at 65° C. After stirring for 30 min at 65° C., the reaction mixture was cooled to room temperature, poured into a 1 N hydrochloric acid solution, and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (20% ethyl acetate/hexanes) afforded 46 mg (35%). LC/MS: tR=2.54 min, 244.03 (MH)+. (Phenomenex C18 4.6×50 mm, 10% MeOH/90% H2O/0.1% TFA→90% MeOH/10% H2O/0.1% TFA, Gradient time=4 min., Flow rate=4 mL/min.).

reactant | 3′-amino-5′-(hydroxymethyl)biphenyl-4-carbonitrile | 0.54 mmol, 120 mg | NC=1C=C(C=C(C1)CO)C1=CC=C(C=C1)C#N | C14H12N2O
reactant | tert-butyl nitrite | 0.78 mmol, 91 μL | N(=O)OC(C)(C)C | C4H9NO2
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | copper (II) chloride | 0.64 mmol, 86 mg | [Cu](Cl)Cl
product | 3′-Chloro-5′-(hydroxymethyl)biphenyl-4-carbonitrile | ClC=1C=C(C=C(C1)CO)C1=CC=C(C=C1)C#N | C14H10ClNO
